US03952031
2β-(2'-Chloroethoxy)-20,20-ethylenedioxy-3α-hydroxy-5α-pregnan-11-one
2β-(2'-Chloroethoxy)-3α-hydroxy-5α-pregnane-11,20-dione (600 mg.) was dissolved in benzene (50 ml.), ethylene glycol (5 ml.) and toluene-p-sulphonic acid (2 mg.) added, and the vigorously stirred mixture refluxed under a Dean and Stark head for 20 hours. The cooled mixture was washed with sodium bicarbonate solution (5 ml.), water (2 × 100 ml.) and dried over anhydrous sodium sulphate. The dried solution was evaporated in vacuo to give the title compound (605 mg.) as a pale yellow foam, [α]D + 47.2° (c 1.11).

reactant | 2β-(2'-Chloroethoxy)-3α-hydroxy-5α-pregnane-11,20-dione | 600 mg | ClCCO[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C23H35ClO4
reactant | ethylene glycol | 5 ml | C(CO)O | C2H6O2
reactant | toluene-p-sulphonic acid | 2 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2β-(2'-Chloroethoxy)-20,20-ethylenedioxy-3α-hydroxy-5α-pregnan-11-one | 605 mg | ClCCO[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C5(C)OCCO5)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C25H39ClO5
